US04659708
B. 4-(Ethylsulfonyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexan-amine
A mixture of 1.5 g. (0.0049 mole) of N-(6-chlorohexyl)-6-methoxy-4-methyl-8-quinolinamine and 2.7 g (0.015 mole) of 1-(ethylsulfonyl)-piperazine was heated at 130° for 50 min, allowed to cool and taken up in dichloromethane and water. The organic layer was washed again, dried, and concentrated to dryness in vacuo. The residue was chromatographed over 70 g of silica gel first with ethyl acetate and then with 2% methanol in ethyl acetate. The eluant containing product, Rf(silica--ethyl acetate)=0.05, was concentrated to dryness in vacuo. Recrystallization of the residue from 2-propanol afforded 1.5 g (68%) of the title compound, mp 72°-74°.

reactant | N-(6-chlorohexyl)-6-methoxy-4-methyl-8-quinolinamine | 0.0049 mole | ClCCCCCCNC=1C=C(C=C2C(=CC=NC12)C)OC | C17H23ClN2O
reactant | 1-(ethylsulfonyl)-piperazine | 0.015 mole, 2.7 g | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(Ethylsulfonyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexan-amine | 1.5 g, 68% | C(C)S(=O)(=O)N1CCN(CC1)CCCCCCNC=1C=C(C=C2C(=CC=NC12)C)OC | C23H36N4O3S
